US03962354
Isopropyl cis-6-hydroxy-3-hexenoate
A mixture of 3.60 g. (26 mm.) of 1-isopropoxy-1,4-cyclohexadiene and 100 ml. of absolute methanol was treated with ozone (1.25 g., 26 mm.) at -78°C. The resulting mixture was flushed with nitrogen. The mixture was allowed to come to 0°C. and 2.42 g. (39 mm.) of dimethyl sulfide were added and the mixture stirred at this temperature for 80 minutes. After cooling to -78°C, a suspension of 1.47 g. (39 mm.) of sodium borohydride in 20 ml. of absolute ethanol was added dropwise. The resulting mixture was allowed to come up to room temperature and then stirred for 80 minutes. The methanol was removed under vacuum to produce 3.54 g. of product (80% of theory), b.p. 72° (0.2 mm., short path distillation).

reactant | 1-isopropoxy-1,4-cyclohexadiene | C(C)(C)OC1=CCC=CC1 | C9H14O
reactant | ozone | 1.25 g | O=[O+][O-] | O3
reactant | methanol | CO | CH4O
product | Isopropyl cis-6-hydroxy-3-hexenoate | OCC\C=C/CC(=O)OC(C)C | C9H16O3
